US06518273B1
[2-Methoxy-5-(trifluoromethoxy)phenyl]boronic Acid
n-Butyllithium (1.6M in hexanes, 3.8 mL, 6 mmol) was added dropwise to a cooled (−78° C.) solution of 2-bromo-1-methoxy-4-(trifluoromethoxy)benzene (Description 16, 1.5 g, 5.5 mmol) in tetrahydrofuran (prefiltered through alumina, 18 mL) [internal temperature <−70° C.]. The mixture was stirred at −78° C. for 15 min., then trimethylborate (2 mL, 17.6 mmol) was added dropwise [internal temperature <−70° C.]. The mixture was stirred at −78° C. for 30 min., then hydrochloric acid (1M, 6 mL) was added. The mixture was warmed to room temperature and stirred for 30 min. Water (25 mL) was added and the mixture was extracted with ethyl acetate (2×40 mL). The combined organic fractions were washed with water (20 mL) and brine (20 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was triturated with hexane and the solid was collected and dried in vacuo at 40° C. to give the title compound as an off white solid (366 mg, 28%). 1H NMR (360 MHz, CDCl3) δ3.93 (3H, s), 5.84 (2H, s), 6.90 (1H, d, J 9.0 Hz), 7.29 (1H, m) and 7.70 (1H, J 2.6 Hz).

reactant | n-Butyllithium | 6 mmol, 1.6M, 3.8 mL | C(CCC)[Li]
reactant | 2-bromo-1-methoxy-4-(trifluoromethoxy)benzene | 5.5 mmol, 1.5 g | BrC1=C(C=CC(=C1)OC(F)(F)F)OC | C8H6BrF3O2
reactant | trimethylborate | 17.6 mmol, 2 mL | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1M, 6 mL | Cl | ClH
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
solvent | Water | 25 mL | O | H2O
product | [2-Methoxy-5-(trifluoromethoxy)phenyl]boronic Acid | COC1=C(C=C(C=C1)OC(F)(F)F)B(O)O | C8H8BF3O4
